* C:\Users\Felipe guierrez\Desktop\integrador\integrador final.asc
R1 N001 N003 1k
C1 N002 N001 0.47µ
R2 N002 N001 1000K
V1 N003 0 SINE(0 8 1k)
V2 v+ 0 15
V3 v- 0 -15
R3 N004 0 1K
XU1 N004 N001 v+ v- N002 LM741
.tran 200m uic
.lib LM741.lib
.backanno
.end
